US07579469B2
A mixture of 1-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (0.053 g), iodoethane (0.011 mL) and powdered potassium carbonate (0.090 g) in 1 mL of anhydrous DMF was heated at 80° C. for 18 hours, cooled to room temperature, and diluted with water and filtered. The solid was purified with flash silica gel chromatography using ethyl acetate as the eluent. The product rich fraction were concentrated in vacuo and provided 1-[4-(2-ethoxy-5-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one, m.p. 195° C.-196° C.

reactant | 1-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 0.053 g | FC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)O | C22H21F4NO3
reactant | iodoethane | 0.011 mL | ICC | C2H5I
reactant | potassium carbonate | 0.090 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[4-(2-ethoxy-5-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | C(C)OC1=C(C=C(C=C1)F)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C | C24H25F4NO3
